US05283247
2-Methyl-3-(3-methyl-2-pyridyl)-4-quinazolone (compound no. 2)
Acetanthranil (4.5 g, 0.028 mole) was mixed with 2-amino-3-picoline (2.7 g, 0.025 mole) and the mixture was heated in an erlenmeyer flask, first at low heat and then at high heat over an open flame. The product was washed with ether and recrystallized from ethanol/water mixture. The yield was 3.7 g (58%), mp 135°-137° C.

reactant | Acetanthranil | 0.028 mole, 4.5 g | CC1=NC2=CC=CC=C2C(=O)O1 | C9H7NO2
reactant | 2-amino-3-picoline | 0.025 mole, 2.7 g | NC1=NC=CC=C1C | C6H8N2
product | 2-Methyl-3-(3-methyl-2-pyridyl)-4-quinazolone | CC1=NC2=CC=CC=C2C(N1C1=NC=CC=C1C)=O | C15H13N3O
